US07186714B2
To a solution of 2-amino-3-chloropyridine (6.51 g, 51 mmol) and 2-bromo-4′-fluoroacetophenone (13.0 g, 60 mmol) in ethanol (100 mL) was added sodium bicarbonate (4.91 g, 60 mmol) and the reaction mixture was heated at reflux for 6 hours. The resulting mixture was concentrated to a solid in vacuo. This residue was dissolved in ethyl acetate and the organic phase was washed with water and an aqueous sodium chloride solution. The organic phase was dried (magnesium sulfate), filtered through a silica gel pad and concentrated to give a solid. This solid was recrystallized from acetonitrile, to give 10.1 g (80%) 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine as a solid. 1H NMR (CDCl3): δ 8.06 (d, 1H), 7.96 (q, 2H), 7.86 (s, 1H), 7.25 (d, 1H), 7.13 (t, 2H), 6.73 (t, 1H); 19F NMR (CDCl3) δ −114.0; MS m/z 247 (M+1).

reactant | 2-amino-3-chloropyridine | 51 mmol, 6.51 g | NC1=NC=CC=C1Cl | C5H5ClN2
reactant | 2-bromo-4′-fluoroacetophenone | 60 mmol, 13.0 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | sodium bicarbonate | 60 mmol, 4.91 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine | 10.1 g, 80% | ClC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)F | C13H8ClFN2
